US07981903B2
1-acryloyl-6-(methyloxy)-7-nitro-1,2,3,4-tetrahydroquinoline (crude from previous reaction, assumed 0.91 mmol) was dissolved in methanol (5 mL), treated with excess dimethyl amine (5.0 mL, 10 mmol, 2 M in THF, Aldrich), and the reaction heated in a sealed tube at 65° C. for 16 h. The mixture was cooled, concentrated, and partitioned between ethyl acetate and saturated aqueous sodium bicarbonate. The aqueous layer was separated and then back-extracted with dichloromethane. The organic layers were combined, dried over magnesium sulfate, filtered, and concentrated to give N,N-dimethyl-3-[6-(methyloxy)-7-nitro-3,4-dihydro-1(2H)-quinolinyl]-3-oxo-1-propanamine which was taken directly to the next step without determination of yield. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.83-1.94 (m, 2 H), 2.18 (bs, 6 H), 2.56-2.71 (m, 4 H), 2.80 (t, J=6.4 Hz, 2 H), 3.71 (t, J=6.0 Hz, 2 H), 3.90 (s, 3 H), 7.20 (s, 1 H), 8.27 (very broad singlet due to amide rotomers, 1 H); ESIMS (M+H)+=308.

reactant | 1-acryloyl-6-(methyloxy)-7-nitro-1,2,3,4-tetrahydroquinoline | 0.91 mmol | C(C=C)(=O)N1CCCC2=CC(=C(C=C12)[N+](=O)[O-])OC | C13H14N2O4
reactant | dimethyl amine | 10 mmol, 2 M, 5.0 mL | CNC | C2H7N
solvent | methanol | 5 mL | CO | CH4O
product | N,N-dimethyl-3-[6-(methyloxy)-7-nitro-3,4-dihydro-1(2H)-quinolinyl]-3-oxo-1-propanamine | CN(CCC(=O)N1CCCC2=CC(=C(C=C12)[N+](=O)[O-])OC)C | C15H21N3O4
